US06420349B1
Methyl-4-(trifluoromethylsulfonyloxy)phenyl acetate
To methyl-4-hydroxyphenyl acetate (20 g, 120 mmol) and pyridine (20 mL, 240 mmol) in 100 mL dichloromethane at 0° C. was added trifluoromethanesulfonic anhydride (23 mL, 132 mmol) dropwise over 30 minutes. After an additional 30 minutes at 0° C. followed by 30 minutes at ambient temperature, 1N hydrochloric acid was added and the reaction mixture was extracted into dichloromethane. The organic layer was washed with 1N hydrochloric acid, saturated sodium bicarbonate, brine, dried over magnesium sulfate, filtered, and concentrated providing 32 g (90%) of the title compound as a yellow solid. 1H NMR (CDCl3; 300 MHz) δ7.38 (d, J=8.4 Hz, 2H), 7.24 (d, J=8.5 Hz, 2H), 3.72 (s, 3H), 3.66 (s, 2H).

reactant | methyl-4-hydroxyphenyl acetate | 120 mmol, 20 g | C(C)(=O)OC1=C(C=C(C=C1)O)C | C9H10O3
reactant | pyridine | 240 mmol, 20 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 132 mmol, 23 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl-4-(trifluoromethylsulfonyloxy)phenyl acetate | 32 g, 90% | C(C)(=O)OC1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C10H9F3O5S
